data/rdb19/train.csv
rxn,smiles,ea
2741,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([H:24])([H:25])[H:26],61.43124558031559
788,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37],26.95628935849527
2423,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([C:2]([H:3])([H:4])[C:11]([H:22])([H:23])[H:24])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18],56.38366311107529
4080,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:22]([O:21][C:20]([H:24])([H:25])[H:26])([C:23]([H:28])[H:29])[H:27])([H:12])[H:13])([H:9])([H:10])[H:11],23.04940618778346
557,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:3]([C:4]([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([H:2])[C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15],48.5150377813552
2468,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([O:25][O:26])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([H:15])[O:26][O:25][C:24]([H:27])([H:28])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12].[C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20],67.07725497835781
2326,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19],37.37255631934386
3403,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19](=[C:20]([H:25])[H:26])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:18][C:17]([H:21])([H:22])[H:23],71.78768822428538
3971,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])([H:37])[H:38])([H:34])([H:35])[H:36]>>[C:1]([H:10])([H:11])[H:12].[C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])([H:14])[C:26]([C:25]([C:24]([H:34])([H:35])[H:36])([H:37])[H:38])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43],77.29020669555757
1841,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:15]([C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],14.267980962642469
5272,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])([H:12])([H:13])[H:14].[H:15][C:21]([C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27],30.86897951393621
